US08669266B2
(ii) 4-((R)-2-Amino-3-fluoro-propionyl)piperazine-1-carboxylic acid butyl ester hydrotrifluoroacetate
To a solution of 230 mg 4-((R)-2-tert-Butoxycarbonylamino-3-fluoro-propionyl)-piperazine-1-carboxylic acid butyl ester in 5 ml dichloromethane was added 1.0 ml TFA. After 12 h stirring at RT the solvents were removed and the residue was codistilled twice with toluene. Yield: 307 mg.

reactant | 4-((R)-2-tert-Butoxycarbonylamino-3-fluoro-propionyl)-piperazine-1-carboxylic acid butyl ester | 230 mg | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CF)NC(=O)OC(C)(C)C)=O | C17H30FN3O5
reactant | TFA | 1.0 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-((R)-2-Amino-3-fluoro-propionyl)piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CF)N)=O | C12H22FN3O3
